US04200641
To a stirred mixture of 29.2 parts of 2-ethyl-1H-benzimidazole, 5 parts of N,N,N-triethylbenzenemethanaminium chloride and 300 parts of a sodium hydroxide solution 60% are added 60 parts of 1-bromo-3-chloropropane. The whole is heated to about 65° C. and stirring is continued for 30 minutes at this temperature. Methylbenzene is added and the whole is poured onto water. The organic phase is separated, dried, filtered and evaporated. The residue is purified twice by column-chromatography over silica gel using a mixture of trichloromethane amd methanol (90:10) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 1-(3-chloropropyl)-2-ethyl-1H-benzimidazole as a residue.

reactant | 2-ethyl-1H-benzimidazole | C(C)C1=NC2=C(N1)C=CC=C2 | C9H10N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
catalyst | N,N,N-triethylbenzenemethanaminium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | Methylbenzene | CC1=CC=CC=C1 | C7H8
product | 1-(3-chloropropyl)-2-ethyl-1H-benzimidazole | ClCCCN1C(=NC2=C1C=CC=C2)CC | C12H15ClN2
